US05665719
Step 2: Synthesis of 1-(1-(2,4-dimethoxybenzoyl)-4-piperidyl)indol-2-one
1-(4-Piperidyl)indol-2-one (53 mg, 0.245 mmole), 2,4-dimethoxybenzoyl chloride (54 mg, 0.27 mmole), and 38 mL (0.27 mmole) triethylamine were mixed in 4 ml of chloroform at 0° C. The reaction mixture was stirred at 0° C. for 5 minutes and then at 23° C. for 15 minutes during which time the pH was adjusted to 7.5 with triethylamine. The reaction mixture was concentrated under reduced pressure and the residue was purified by preparative thick layer chromatography (CHCl3 --CH3OH--NH4OH; 95:5:0.5) to yield 42 mg of the title compound: m.p. 88°-93° C.

reactant | 1-(4-Piperidyl)indol-2-one | 0.245 mmole, 53 mg | N1CCC(CC1)N1C(CC2=CC=CC=C12)=O | C13H16N2O
reactant | 2,4-dimethoxybenzoyl chloride | 0.27 mmole, 54 mg | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
reactant | triethylamine | 0.27 mmole, 38 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(1-(2,4-dimethoxybenzoyl)-4-piperidyl)indol-2-one | 42 mg | COC1=C(C(=O)N2CCC(CC2)N2C(CC3=CC=CC=C23)=O)C=CC(=C1)OC | C22H24N2O4
